US07674924B2
5-(4-ethynylphenyl)amino-5-oxo-pentanoic acid:
To a solution of 4-ethynylaniline (0.99 g, 8.5 mmol) in CH2Cl2 (100 ml) is added glutaric anhydride (1.06 g, 9.30 mmol). After 1 h, the resulting slurry is concentrated by rotary evaporation and the crude mixture is purified by silica column chromatography (10% methanol/5% TEA/CH2Cl2).

reactant | 4-ethynylaniline | 8.5 mmol, 0.99 g | C(#C)C1=CC=C(N)C=C1 | C8H7N
reactant | glutaric anhydride | 9.30 mmol, 1.06 g | C1(CCCC(=O)O1)=O | C5H6O3
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-(4-ethynylphenyl)amino-5-oxo-pentanoic acid | C(#C)C1=CC=C(C=C1)NC(CCCC(=O)O)=O | C13H13NO3
